US08431563B2
A solution of 1-((2S)-4-(2-thiophenylsulfonyl)-1-(4-(2,2,2-trifluoro-1-hydroxy-1-methylethyl)phenyl)-2-piperazinyl)-2-propanone (100 mg, 0.210 mmol) and oxetan-3-amine (18.41 mg, 0.252 mmol, J & W PharmLab, Levittown, Pa.) in THF (10 mL) was cooled to 0° C. To this mixture was added Ti(O-iPr)4 (154 μL, 0.525 mmol, Sigma-Aldrich, St. Louis, Mo.). The mixture was stirred for 3 h and then a solution of sodium borohydride (11.91 mg, 0.315 mmol, Sigma-Aldrich, St. Louis, Mo.) in MeOH (1 mL) was added. The reaction mixture was stirred at ambient temperature for 4 h. Saturated aqueous NH4Cl was added and the mixture was filtered. The filtrate was concentrated and purified via reverse-phase preparative HPLC using a Phenomenex Gemini C18 column (150×30 mm, 10 μm) eluting with 0.1% TFA in MeCN/H2O (5% to 100% over 15 min) to give 1,1,1-trifluoro-2-(4-((2S)-2-(2-(3-oxetanylamino)propyl)-4-(2-thiophenylsulfonyl)-1-piperazinyl)phenyl)-2-propanol (28 mg) as a mixture of four isomers

reactant | 1-((2S)-4-(2-thiophenylsulfonyl)-1-(4-(2,2,2-trifluoro-1-hydroxy-1-methylethyl)phenyl)-2-piperazinyl)-2-propanone | 0.210 mmol, 100 mg | S1C(=CC=C1)S(=O)(=O)N1C[C@@H](N(CC1)C1=CC=C(C=C1)C(C(F)(F)F)(C)O)CC(C)=O | C20H23F3N2O4S2
reactant | oxetan-3-amine | 0.252 mmol, 18.41 mg | O1CC(C1)N | C3H7NO
reactant | sodium borohydride | 0.315 mmol, 11.91 mg | [BH4-].[Na+]
reactant | NH4Cl | [NH4+].[Cl-]
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | MeOH | 1 mL | CO | CH4O
product | 1,1,1-trifluoro-2-(4-((2S)-2-(2-(3-oxetanylamino)propyl)-4-(2-thiophenylsulfonyl)-1-piperazinyl)phenyl)-2-propanol | 28 mg | FC(C(C)(O)C1=CC=C(C=C1)N1[C@H](CN(CC1)S(=O)(=O)C=1SC=CC1)CC(C)NC1COC1)(F)F | C23H30F3N3O4S2
